US04002751
To a solution consisting of 22.9 grams of 4,5-dichloro-2-phenylpyridazin-3(2H)-one in 120 grams of methanol is added 20 grams of methylhydrazine. The reactants are heated to reflux for two hours, cooled and poured into one kilogram of water. The resulting precipitate is separated by filtration, washed with water and dried. The solid is crystallized from benzene and methanol to yield 4-chloro-2-phenyl-5-(1-methylhydrazino)-pyridazine-3(2H)-one (m.p. 128° to 130° C with decomposition).

reactant | 4,5-dichloro-2-phenylpyridazin-3(2H)-one | 22.9 grams | ClC=1C(N(N=CC1Cl)C1=CC=CC=C1)=O | C10H6Cl2N2O
reactant | methylhydrazine | 20 grams | CNN | CH6N2
reactant | water | one kilogram | O | H2O
solvent | methanol | 120 grams | CO | CH4O
product | 4-chloro-2-phenyl-5-(1-methylhydrazino)-pyridazine-3(2H)-one | ClC=1C(N(N=CC1N(N)C)C1=CC=CC=C1)=O | C11H11ClN4O
